US05028605
A mixture of 1 g (3,6 mmol) of 3,5-dibromoimidazo[1,2-a]pyrazine in 9 ml of a 40% strength aqueous methylamine solution is maintained with stirring for 12 hours. After evaporation under reduced pressure and chromatography on a silica column eluted with ether, 0.33 g (Yld=40%) of 3-bromo-8-methylaminoimidazo[1,2-a]pyrazine (m.p. 139° C.) is obtained.

reactant | 3,5-dibromoimidazo[1,2-a]pyrazine | 3,6 mmol, 1 g | BrC1=CN=C2N1C(=CN=C2)Br | C6H3Br2N3
reactant | methylamine | CN | CH5N
product | 3-bromo-8-methylaminoimidazo[1,2-a]pyrazine | 0.33 g, 40% | BrC1=CN=C2N1C=CN=C2NC | C7H7BrN4
